US05362733
5-[(3,4-Dihydroxy-5-cyanophenyl)methylidene]-2-thioxothiazolidin-4-one
A solution containing 0.61 g of rhodanine, 0.72 g of 3,4-dihydroxy-5-cyanobenzaldehyde and 0.1 ml of piperidine in 10 ml of acetic acid was heated for 4 h at 100° C. The product was filtered and washed with 2-propanol. Yield 0.35 g, mp>350° C.

reactant | rhodanine | 0.61 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | 3,4-dihydroxy-5-cyanobenzaldehyde | 0.72 g | OC=1C=C(C=O)C=C(C1O)C#N | C8H5NO3
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-[(3,4-Dihydroxy-5-cyanophenyl)methylidene]-2-thioxothiazolidin-4-one | OC=1C=C(C=C(C1O)C#N)C=C1C(NC(S1)=S)=O | C11H6N2O3S2
